US03952003
6-Chloro-5-(N-acetyl-N-isopropylamino)-1-methyl-1H-indazole-4,-7-dione (3 grams) and isopropylamine (3 grams) in methylene chloride (25 milliliters) were heated under reflux for 15 minutes. The solvent was then removed under reduced pressure and the residue recrystallized from ethanol to give 6-isopropylamino-5-(N-acetyl-N-isopropylamino)-1-methyl-1H-indazole-4,7-dione as a red solid having a melting point of 123°-126° C.

reactant | 6-Chloro-5-(N-acetyl-N-isopropylamino)-1-methyl-1H-indazole-4,-7-dione | 3 grams | ClC1=C(C(C=2C=NN(C2C1=O)C)=O)N(C(C)C)C(C)=O | C13H14ClN3O3
reactant | isopropylamine | 3 grams | C(C)(C)N | C3H9N
solvent | methylene chloride | 25 milliliters | C(Cl)Cl | CH2Cl2
product | 6-isopropylamino-5-(N-acetyl-N-isopropylamino)-1-methyl-1H-indazole-4,7-dione | C(C)(C)NC1=C(C(C=2C=NN(C2C1=O)C)=O)N(C(C)C)C(C)=O | C16H22N4O3
